US08871738B2
To a slurry of (1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-5-[3-bromo-6-(dimethylamino)pyridin-2-yl]tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-3-one (200 mg, 0.372 mmol) in MeOH (7.25 mL) under nitrogen at room temperature was added silver sulfate (116 mg, 0.372 mmol), followed by iodine (94 mg, 0.372 mmol). The resulting mixture was stirred for 1 hour. The reaction was partitioned with ethyl acetate and aqueous sodium hydroxide (1.0 M). The organic was then washed with aqueous saturated sodium thiosulfate and the combined aqueous layers were extracted with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography to yield (1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-5-[3-bromo-6-(dimethylamino)-5-iodopyridin-2-yl]tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-3-one (180 mg, 0.271 mmol). MS ESI calc'd. for C21H18BrF6N3O2 [M+H]+ 666.0. found 666.1.

reactant | (1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-5-[3-bromo-6-(dimethylamino)pyridin-2-yl]tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-3-one | 0.372 mmol, 200 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=NC(=CC=C2Br)N(C)C)(F)F | C21H18BrF6N3O2
reactant | iodine | 0.372 mmol, 94 mg | II | I2
solvent | MeOH | 7.25 mL | CO | CH4O
catalyst | silver sulfate | 0.372 mmol, 116 mg | S(=O)(=O)([O-])[O-].[Ag+2]
product | (1R,5S,7aS)-1-[3,5-bis(trifluoromethyl)phenyl]-5-[3-bromo-6-(dimethylamino)-5-iodopyridin-2-yl]tetrahydro-1H-pyrrolo[1,2-c][1,3]oxazol-3-one | 0.271 mmol, 180 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@H]2N(C(O1)=O)[C@@H](CC2)C2=NC(=C(C=C2Br)I)N(C)C)(F)F | C21H17BrF6IN3O2
